US07078407B2
Preparation of 3-(3,5-dibutoxy-4-hydroxyphenyl)-N-[4-(3,5-di-t-butyl-4-hydroxyphenyl)butyl]acrylamide
To the solution of 3-(3,5-dibutoxy-4-hydroxyphenyl) acrylic acid (53 mg, 0.17 mmol) in DMF (0.76 ml) and Et3N (39 μl), was added 4-(2-aminoethyl)-2,6-di-t-butylphenol (50 mg, 0.19 mmol) at 0° C. The obtained solution was added with the solution of benzotriazol-1-yloxytris (dimethylamino) phosphonium hexafluorophosphate (84 mg, 0.19 mmol) in CH2Cl2 (1 ml). The solution was stirred for 30 minutes at 0° C. and then was stirred for 12 hours at room temperature. The solution was added with BOP (70 mg, 0.16 mmol) and was stirred for 1 hour. And then CH2Cl2 was evaporated in vacuo and the obtained residue was poured into ice water. The residue was extracted with EtOAc and washed with HCl (aq) and NaHCO3 (aq). And then the water was dried over anhydrous magnesium sulfate and filtered. The obtained filtrate was vacuum concentrated to give the residue, which was purified by column chromatography (EtOAc:Hexane=1:2), yielding 51 mg (91%) of the title compound as a brown oil.

reactant | 3-(3,5-dibutoxy-4-hydroxyphenyl) acrylic acid | 0.17 mmol, 53 mg | C(CCC)OC=1C=C(C=C(C1O)OCCCC)C=CC(=O)O | C17H24O5
reactant | 4-(2-aminoethyl)-2,6-di-t-butylphenol | 0.19 mmol, 50 mg | NCCC1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C | C16H27NO
reactant | benzotriazol-1-yloxytris (dimethylamino) phosphonium hexafluorophosphate | 0.19 mmol, 84 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | BOP | 0.16 mmol, 70 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
solvent | DMF | 0.76 ml | CN(C)C=O | C3H7NO
solvent | Et3N | 39 μl | CCN(CC)CC | C6H15N
solvent | CH2Cl2 | 1 ml | C(Cl)Cl | CH2Cl2
product | 3-(3,5-dibutoxy-4-hydroxyphenyl)-N-[4-(3,5-di-t-butyl-4-hydroxyphenyl)butyl]acrylamide | 51 mg, 91% | C(CCC)OC=1C=C(C=C(C1O)OCCCC)C=CC(=O)NCCCCC1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C | C35H53NO5
